US06329027B1
A solution of 3-chloro-5-fluorophenylmagnesium bromide [prepared from 22.7 g (108.3 mmol) of 3-chloro-5-fluoro-bromobenzene and 2.7 g (111.0 mmol) of magnesium, and 100 ml of diethyl ether] in diethyl ether was added by drops to a mixture of 10 g (54.1 mmol) of 2-chloro-5-pentylpyrimidine, 0.4 g (0.5 mmol) of dichloro[1,1′-bis(diphenylphosphino) ferrrocene]palladium, and 300 ml of diethyl ether while being maintained at a temperature lower than −60° C., stirred at the same temperature for 1 hour, and then stirred at 10° C. for 10 hours. A diluted hydrochloric acid in an amount of 300 ml was added to the reaction mixture and extracted with 250 ml of heptane. The organic layer thus obtained was washed with a diluted aqueous sodium bicarbonate solution thrice and water thrice, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under a reduced pressure and the residue was subjected to silica gel column chromatography (eluent: heptane/toluene=1/1) to obtain 11.0 g of a crude 2-(3-chloro-5-fluorophenyl)-5-pentylpyrimidine. (Yield: 72.8%)

reactant | 3-chloro-5-fluorophenylmagnesium bromide | 108.3 mmol, 100 ml, 22.7 g | ClC=1C=C(C=C(C1)F)[Mg]Br
reactant | 3-chloro-5-fluoro-bromobenzene | 108.3 mmol | ClC=1C=C(C=C(C1)F)Br | C6H3BrClF
reactant | magnesium | 111.0 mmol | [Mg] | Mg
reactant | 2-chloro-5-pentylpyrimidine | 54.1 mmol, 10 g | ClC1=NC=C(C=N1)CCCCC | C9H13ClN2
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 2-(3-chloro-5-fluorophenyl)-5-pentylpyrimidine | 11.0 g, Yield: 72.8% | ClC=1C=C(C=C(C1)F)C1=NC=C(C=N1)CCCCC | C15H16ClFN2
